US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-1,2-diphenyl-ethanol
The procedure for the synthesis of example 1a, 1-(4-benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol, was followed using commercially available benzylmagnesium bromide (available from TCI America) as starting material and making non-critical variations, to yield the title compound. LCMS [M+H]+=374.1 major single peak @ 3.82 min.

reactant | 1-(4-benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC)(O)C1=CC=CC=C1 | C26H29NO3
reactant | benzylmagnesium bromide | C(C1=CC=CC=C1)[Mg]Br
product | 1-(4-Benzyl-morpholin-2-yl)-1,2-diphenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=CC=CC=C1)(O)C1=CC=CC=C1 | C25H27NO2
